US04450272
N-tert-Butyl-4-(2-pyrazinyl)-1-piperazinethiocarboxamide
To a solution of 4.92 g. of 1-(2-pyrazinyl)piperazine in 50 ml. of anhydrous ether is added a solution of 3.45 g. of tert-butyl isothiocyanate in 50 ml. of anhydrous ether. The mixture is stirred for 30minutes and the resulting solid is collected and recrystallized from 50 ml.of ethanol, giving 5.85 g. of the desired product as white crystals, m.p. 153°-156° C.

reactant | 1-(2-pyrazinyl)piperazine | N1=C(C=NC=C1)N1CCNCC1 | C8H12N4
reactant | tert-butyl isothiocyanate | C(C)(C)(C)N=C=S | C5H9NS
solvent | ether | CCOCC | C4H10O
product | N-tert-Butyl-4-(2-pyrazinyl)-1-piperazinethiocarboxamide | C(C)(C)(C)NC(=S)N1CCN(CC1)C1=NC=CN=C1 | C13H21N5S
